US04552984
Methods for the preparation of compounds of this type are already known in the art. For example, Chemical Abstracts 61-8217 describes the preparation of p-F3COC6H4SO2CF3. According to the described process, paratrifluoromethoxyaniline obtained by nitration of trifluoromethoxybenzene is subjected to diazotization in an aqueous HCl medium. The resultant product is treated first with EtOCS2K, then with potassium hydroxide, and finally with dimethyl sulfate to produce paratrifluoromethoxythioanisole. This product is chlorinated to give paratrifluoromethoxytrichloromethylthiobenzene. This compound is then treated with SbF3 to produce paratrifluoromethoxytrifluoromethylthiobenzene, which is converted to the desired product by chromic acid oxidation in acetic acid. Similarly known from Chemical Abstracts 87-134,266 h is the preparation of m-CF3SC6H4SO2CF3 by trifluoromethylation with CF3I of the corresponding thiol in liquid ammonia under ultraviolet irradiation.

reactant | p-F3COC6H4SO2CF3 | C(F)(F)(F)OC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C8H4F6O3S
reactant | paratrifluoromethoxyaniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | trifluoromethoxybenzene | FC(OC1=CC=CC=C1)(F)F | C7H5F3O
